2197-09-29 06:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   PCP reports that patient with history of pancytopenia d/t MDS. Not
   treated given patient's age/comorbidities; saw hematology as outpatient
   and decided not to bone marrow biopsy or workup/treat to an excessive
   degree. Platelets typically 50-60, WBC typically 2, Hct typically
   28-30. Labs monitored monthly by PCP, [**Name10 (NameIs) **] without intervention thus
   far.
   Transfused 2 units over day/night. Hct bumped what seemed to be an
   appropriate amount as the 2nd unit finished infusing, but then next lab
   check (this AM) demonstrated slight Hct drop again when it should have
   been stable or even risen slightly.
   ECHO:
   LVEF 40 percent
   Hypokinesis of the inferior and posterior walls
   Increased left ventricular filling pressure (PCWP>18mmHg)
   Severe aortic valve stenosis (valve area 0.8-1.0cm2).
   Mild MR; Moderate TR
   Moderate pulmonary artery systolic hypertension.
   -Compared to 1 year ago, RV now appears somewhat hypokinetic.
   Cath report:
   FINAL DIAGNOSIS:
   1. Left main coronary artery disease.
   2. Placement of a drug-eluting stent in the LMCA.
   3. Moderate aortic stenosis.
   4. Biventricular diastolic dysfunction.
   5. Severe pulmonary arterial hypertension.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-9-29**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.4
C (97.5
   HR: 81 (72 - 90) bpm
   BP: 90/38(51) {83/33(45) - 115/76(83)} mmHg
   RR: 17 (11 - 24) insp/min
   SpO2: 96%
   Height: 64 Inch
                  Total In:
                                                                  1,202 mL
                  PO:
                                                                    400 mL
                  TF:
   IVF:
                                                                     52 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  2,225 mL
                                                                      0 mL
   Urine:
                                                                  2,225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,024 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   Unable to perform as patient eating breakfast first and then down at
   ultrasound when attempted to return. Will defer to day team today to
   examine.
   Labs / Radiology
   49 K/uL
   8.3 g/dL
   128 mg/dL
   1.7 mg/dL
   31 mEq/L
   4.2 mEq/L
   42 mg/dL
   107 mEq/L
   142 mEq/L
   25.3 %
   2.6 K/uL
        [image002.jpg]
                             [**2197-9-28**]  04:28 AM
                             [**2197-9-28**]  08:45 AM
                             [**2197-9-29**]  12:08 AM
                             [**2197-9-29**]  04:02 AM
   WBC
   1.7
   2.6
   Hct
   21.2
   22.5
   27.8
   25.3
   Plt
   50
   49
   Cr
   1.7
   1.7
   Glucose
   158
   128
   Other labs: Differential-Neuts:71.0 %, Band:0.0 %, Lymph:26.0 %,
   Mono:3.0 %, Eos:0.0 %, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo gentleman with hx of AS, CAD, admitted out of concern for
   worsening AS, now s/p cath with LAD stent placement (no valvuloplasty
   performed); stable on transfer to the floor. With anemia appearing
   lower than baseline (baseline anemic d/t MDS) was transfused two units
   over [**Date range (1) 10617**].
   .
   # CORONARIES: Mr [**Known lastname 1138**] has a history of CAD with stent placement to the
   LAD [**3-27**] and known RCA occlusion. He does not have any recent history
   of CP or pressure and ST depressions on EKG do not appear to be acute
   changes.  Cath showed LAD stent-rethrombosis, therefore new stent
   placed.
   -continue ASA, clopidogrel
   -holding heparin and integrillin for now given that this does not
   appear to be ACS
   .
   # PUMP: Systolic and diastolic function. Volume overloaded on exam
   previously. PCWP elevated at 40. Met diuresis goal of negative 1L over
   last 24 hours.
   -examine patient this morning with the team and reassess volume status;
   diuresed well and with history of AS [**First Name11 (Name Pattern1) **]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) 481**] to overdiurese given
   preload dependence
   -continue metoprolol at 25 [**Hospital1 7**] given lower BP
   .
   # Aortic Stenosis: While ECHO [**2197-9-21**] showed severe stenosis, cath here
   demonstrated only moderate area 0.96 and valve gradient 15.01 therefore
   valvuloplasty was deferred. Repeat echo on [**9-28**] demonstrates severe but
   not critical AS.
   -monitor as an outpatient
   .
   # RHYTHM: NSR. Monitor on tele.
   .
   # Pancytopenia: Patient has prior leukopenia, anemia, thrombocytopenia
 known (and untreated) MDS per his PCP. [**Name10 (NameIs) **] anemia seen post-cath;
   transfused 2 units, saw appropriate Hct rise and then slight decrease
   of Hct again this morning. Given history of GI bleed (and without
   obvious source of bleed at this time), will monitor closely and consult
   GI if needed.
   - recheck Hct this AM and then PM
   - guaiac stool
   .
   # Renal artery stenosis: will repeat renal US non-urgently to evaluate
   for progression of disease
   .
   # Diabetes
   -continue home insulin dose
   -diabetic diet.
   # Hypocalcemia
   -Albumin added onto morning
s labs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2197-9-28**] 04:18 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:  not intubated
   Comments:
   Communication:  Comments: Updated son yesterday afternoon ([**9-28**])
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Attending Comprehensive Progress Note
   I have reviewed the Comprehensive Progress Note by Dr. [**Last Name (STitle) 10453**] today and
   I concur with the History, Physical examination, and Medical Decision
   Making.  My examination is consistent with the examination documented
   in the note.
   Medical Decision Making.   He is a [**Age over 90 **] year old man with aortic stenosis
   ([**Location (un) 342**] 0.9 cm2) and left main coronary artery disease.  He underwent
   repeat intervention of the left main yesterday.    His PCWP was 40 mmHg
   during the catheterization and he has been diuresed 1 L over the past
   24 hours.
   The treatment plan was discussed with the patient and all questions
   addressed.
   [**First Name4 (NamePattern1) 1914**] [**Last Name (NamePattern1) 7145**] [**Pager number 10477**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1914**] [**Last Name (NamePattern1) 7145**], MD
   on:[**2197-9-29**] 19:58 ------
   [**2197-9-29**] 8PM
   Attending Comprehensive Progress Note
   I have reviewed the Comprehensive Progress Note by Dr. [**Last Name (STitle) 10453**] today and
   I concur with the History, Physical examination, and Medical Decision
   Making.  My examination is consistent with the examination documented
   in the note.
   Medical Decision Making.   He is a [**Age over 90 **] year old man with aortic stenosis
   ([**Location (un) 342**] 0.9 cm2) and left main coronary artery disease.  He underwent
   repeat intervention with a CYPHER stent in the left main coronary
   artery.    His initial PCWP was 40 mmHg and he has been successfully
   diuresed and additional 1 L over the past 24 hours.  He is breathing
   much more comfortably and should be approaching criteria for hospital
   discharge.
   The treatment plan was discussed with the patient and all questions
   addressed.
   [**First Name4 (NamePattern1) 1914**] [**Last Name (NamePattern1) 7145**] [**Pager number 10477**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1914**] [**Last Name (NamePattern1) 7145**], MD
   on:[**2197-9-29**] 20:09 ------